US07476666B2
Step 8: 3-Benzyloxy-2-methoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid
To a solution of methyl 3-benzyloxy-7-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (195 mg, 0.503 mmol) in MeOH/THF (0.5 mL) was added aqueous 1N NaOH (554 μL, 0.554 mmol). The mixture was stirred for 1 hour and quenched by the addition aqueous 3N HCl (170 μL). Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 7.49-7.47 (m, 2H), 7.40-7.33 (m, 3H), 5.44 (br s, 1H), 5.21 (dd, J=11.2, 30.4 Hz, 2H), 4.18 (dd, J=4.8, 13.6 Hz, 1H), 3.91 (d, J=13.6 Hz, 1H), 3.80 (s, 3H), 3.01 (s, 3H); ES MS (M+H)=360.

reactant | methyl 3-benzyloxy-7-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.503 mmol, 195 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)OCC)C)=O)C(=O)OC | C19H21N3O6
reactant | NaOH | 0.554 mmol, 1N, 554 μL | [OH-].[Na+]
solvent | MeOH THF | 0.5 mL | CO.C1CCOC1
product | 3-Benzyloxy-2-methoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)O)C)=O)C(=O)OC | C17H17N3O6
